US04474692
N-Carbobenzoxy-L-alanine (21.8 g) and 12.3 ml of triethylamine are dissolved in 200 ml of tetrahydrofuran, and 8.5 g of ethyl chlorocarbonate is added dropwise at -15° C. with stirring. After the dropping, stirring is continued for 15 minutes, and then a solution of 22 g of (indan-2-yl)glycine tert-butyl ester in 100 ml of chloroform is added dropwise at -10° C. or below. After stirring at room temperature for an hour, the reaction mixture is poured into 500 ml of water, and the chloroform layer is separated and the chloroform is distilled off. The residue is dissolved in 300 ml of ethyl acetate, the solution is washed with two 50-ml portions of 1N aqueous sodium hydroxide, one 50-ml portion of water, two 50-ml portions of 20% aqueous phosphoric acid and one 50-ml portion of water, in that order, and then dried over anhydrous magnesium sulfate, and the solvent is distilled off to give 35 g of N-carbobenzoxy-L-alanyl-N-(indan-2 -yl)glycine tert-butyl ester as an oil. This is dissolved in 300 ml of methanol and, after addition of 7 g of oxalic acid and 3.5 g of 10% palladium-carbon (containing 50% water), is subjected to catalytic reduction at ordinary temperature and ordinary pressure. After the reaction, the catalyst is filtered off, the filtrate is distilled off under reduced pressure, and 500 ml of ethanol is added to the residue. On cooling, a precipitate forms, which is collected by filtration and dried to give 21.8 g of L-alanyl-N-(indan-2-yl)glycine tert-butyl ester oxalate melting at 138°-141° C.

reactant | N-Carbobenzoxy-L-alanine | 21.8 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
reactant | triethylamine | 12.3 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 8.5 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | (indan-2-yl)glycine tert-butyl ester | 22 g | C(C)(C)(C)OC(CNC1CC2=CC=CC=C2C1)=O | C15H21NO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 500 ml | O | H2O
product | N-carbobenzoxy-L-alanyl-N-(indan-2 -yl)glycine tert-butyl ester | 35 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)=O | C26H32N2O5
